US04414216
4-Cyano-4-phenyl-1-butene (15 g) is dissolved in 50 ml of ethanol and 3 drops of water whereupon 20 ml of sulfuric acid is added dropwise. The resulting mixture is warmed slowly and then heated under reflux for 6 hours. The reaction mixture is then poured into 100 ml of ice-cold water and extracted with 100 ml of benzene. The extract is dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is distilled to give 7.0 g of ethyl 2-phenyl-4-pentenoate, boiling at 133°-137° C. (20 mmHg).

reactant | 4-Cyano-4-phenyl-1-butene | 15 g | C(#N)C(CC=C)C1=CC=CC=C1 | C11H11N
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | water | 3 drops | O | H2O
product | ethyl 2-phenyl-4-pentenoate | 7.0 g | C1(=CC=CC=C1)C(C(=O)OCC)CC=C | C13H16O2
